US04665181
6-[2-(4-Dimethylaminophenyl)ethyl]-1(2H)-phthalazinone
6-[2-(4-Dimethylaminophenyl)ethenyl]-1(2H)-phthalazinone (2.6 gm of a mixture of cis/trans isomers) in methanol (100 ml)/5N.HCl (10 ml) was hydrogenated at 60 psig over 5% Pd/C (0.5 gm) for 20 hours. The reaction mixture was heated to dissolve the product and then filtered from the catalyst. The cooled filtrate was filtered to give the saturated product as a solid (2.3 gm), mp 257°-9° C.

reactant | 6-[2-(4-Dimethylaminophenyl)ethenyl]-1(2H)-phthalazinone | CN(C1=CC=C(C=C1)C=CC=1C=C2C=NNC(C2=CC1)=O)C | C18H17N3O
reactant | HCl | 10 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 0.5 gm | [Pd] | Pd
product | 6-[2-(4-Dimethylaminophenyl)ethyl]-1(2H)-phthalazinone | 2.3 gm | CN(C1=CC=C(C=C1)CCC=1C=C2C=NNC(C2=CC1)=O)C | C18H19N3O
